US05281571
At 25° C., 6.11 g (0.018 mole) 4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenol, 2.5 g (0.019 mole) K2CO3, and 2.0 mL (0.019 mole) ethyl bromoacetate were slurried in 100 mL acetone. The reaction mixture was stirred at 40° C. for 4 hours. The mixture was cooled, diluted with 100 mL cold water, and extracted four times with ethyl acetate. The ethyl acetate extracts were washed with brine, dried over anhydrous MgSO4, and stripped in vacuo. The residue was recrystallized from methylcyclohexane to give 7.5 g (99%) of (4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenoxy)acetic acid, ethyl ester as a light yellow solid, mp 95°-96° C.

reactant | 4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenol | 0.018 mole, 6.11 g | ClC=1C(=NN(C1C(F)(F)F)C)C1=CC(=C(C=C1F)O)[N+](=O)[O-] | C11H6ClF4N3O3
reactant | K2CO3 | 0.019 mole, 2.5 g | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl bromoacetate | 0.019 mole, 2.0 mL | BrCC(=O)OCC | C4H7BrO2
solvent | acetone | 100 mL | CC(=O)C | C3H6O
solvent | water | 100 mL | O | H2O
product | (4-(4-chloro-1-methyl-5-(trifluoromethyl)-1H-pyrazol-3-yl)-5-fluoro-2-nitrophenoxy)acetic acid, ethyl ester | 7.5 g, 99% | ClC=1C(=NN(C1C(F)(F)F)C)C1=CC(=C(OCC(=O)OCC)C=C1F)[N+](=O)[O-] | C15H12ClF4N3O5
